US07091214B2
Nitrogen was bubbled through a solution of thioacetic acid S-[4-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]ester (1.93 g, 4.42 mmol) in methanol (45 mL), and then sodium methoxide (2.5 mL of 25% by weight in methanol, 11.1 mmol) was added dropwise over a period of three minutes. The yellow solution was stirred at ambient temperature for one hour and then concentrated under reduced pressure. The residue was partitioned between dichloromethane (250 mL) and water (125 mL), and hydrochloric acid (˜3 mL of 2 M) was added to adjust the mixture to pH 7. The aqueous layer was separated and extracted with dichloromethane (50 mL); the combined organic fractions were washed with brine (100 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 1.73 g of 4-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butane-1-thiol as a tan solid.

reactant | thioacetic acid S-[4-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]ester | 4.42 mmol, 1.93 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCCSC(C)=O)COCC | C19H22BrN3O2S
reactant | sodium methoxide | 11.1 mmol, 2.5 mL | C[O-].[Na+]
solvent | methanol | 45 mL | CO | CH4O
product | 4-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butane-1-thiol | 1.73 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCCS)COCC | C17H20BrN3OS
